US07253158B2
N-(4-Amino-benzyl)-4-chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide
4-Chloro-N-(4-nitro-benzyl)-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide (0.10 g, 0.22 mmol) was dissolved in ethanol (15 ml) and treated with SnCl2 (0.42 g, 2.2. mmol) overnight at 70° C. The reaction mixture was concentrated under reduced pressure and purified directly using preparative RP(C18) chromatography: lyophilisate 27 mg; MS: m/e=408.2 (MH+), 425.3 (MNH4+).

reactant | 4-Chloro-N-(4-nitro-benzyl)-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide | 0.22 mmol, 0.10 g | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCCC1)=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C19H20ClN3O5S
reactant | SnCl2 | 0.42 g | Cl[Sn]Cl
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | N-(4-Amino-benzyl)-4-chloro-N-((R)-2-oxo-azepan-3-yl)-benzenesulfonamide | NC1=CC=C(CN(S(=O)(=O)C2=CC=C(C=C2)Cl)[C@H]2C(NCCCC2)=O)C=C1 | C19H22ClN3O3S
